US04314842
b. Formation of 5-(1-methoxy-1-methylethyl)-2-amino-1,3,4-thiadiazole
Into a 150 milliliter, 3-neck flask equipped with a Claisen adaptor, paddle stirrer, thermometer, addition funnel and condenser were charged 7.1 grams (0.060 mole) of 2-methyl-2-methoxypropanoic acid, prepared above, (5.5 grams, 0.060 mole) of thiosemicarbazide and 50 milliliters of dry dioxane. The slurry was heated to 85° C. and the addition funnel was charged with phosphorous oxychloride (POCl3). The POCl3 (10.1 grams, 0.066 mole) was slowly added (for 20 minutes) while maintaining the temperature within 85°-95° C. The resulting suspension was refluxed for 1 hour and topped slightly with a water aspirator and then cooled. Fifty (50) milliliters of water was added and 50% solution of NaOH was also added until the pH of the solution was 10; an aqueous phase formed. The mixture was placed in a continuous diethylether extractor and extracted for 16 hours.

reactant | 2-methyl-2-methoxypropanoic acid | 0.060 mole, 7.1 grams | CC(C(=O)O)(C)OC | C5H10O3
reactant | thiosemicarbazide | 0.060 mole, 5.5 grams | NNC(=S)N | CH5N3S
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | 0.066 mole, 10.1 grams | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | diethylether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | dioxane | 50 milliliters | O1CCOCC1 | C4H8O2
product | 5-(1-methoxy-1-methylethyl)-2-amino-1,3,4-thiadiazole | COC(C)(C)C1=NN=C(S1)N | C6H11N3OS
